### PR TITLE
feat: birthday of surreal number corresponds to birthday of its game

### PR DESCRIPTION
**Pull request by vihdzp**
This proof was originally found by @plp127 in #123; I've simplified it somewhat by introducing a new definition `Cut.birthday`.

### CODE REVIEW

File: CombinatorialGames/Game/Canonical.lean [hunk 1]
```diff
@@ -23,16 +23,6 @@ universe u
 
 /-! ### For Mathlib -/
```
Comment (Ruben-VandeVelde) [inline CombinatorialGames/Game/Canonical.lean]:
```suggestion
```

File: CombinatorialGames/Surreal/Birthday/Cut.lean [hunk 2]
```diff
@@ -0,0 +1,297 @@
...
+
+@[simp]
+theorem birthday_bot : birthday ⊥ = 0 := by
+  simpa using birthday_sSup_rightSurreal_le ∅
+
+@[simp]
+theorem birthday_top : birthday ⊤ = 0 := by
+  simpa using birthday_sInf_leftSurreal_le ∅
+
+-- TODO: is this an equality?
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Cut.lean:131]: The equality is true. The only way a small infimum or supremum of surreal cuts can equal another surreal cut is if it is contained in the set. I'll prove this in a follow-up.

Comment (vihdzp) [reply CombinatorialGames/Surreal/Birthday/Cut.lean:131]: Proved in #134

File: CombinatorialGames/Surreal/Cut.lean [hunk 3]
```diff
@@ -297,6 +331,17 @@ theorem leftGame_lt_rightGame_iff {x : Game} :
     exact fun ⟨y, hyr, hyl⟩ ↦ ⟨y, le_antisymm hyl hyr⟩
   · aesop
 
+theorem sInf_leftSurreal_right (x : Cut) : sInf (leftSurreal '' x.right) = x := by
+  ext y
+  simp_rw [left_sInf, mem_image, iInter_exists, biInter_and', iInter_iInter_eq_right,
+    left_leftSurreal, mem_iInter, mem_Iio]
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean]: Since this is the expanded `simp`:

```suggestion
  suffices (∀ i ∈ x.right, y < i) ↔ y ∈ x.left by simpa
```

File: CombinatorialGames/Surreal/Cut.lean [hunk 4]
```diff
@@ -426,4 +471,17 @@ theorem simplestBtwn_supLeft_infRight {x : IGame} (h : supLeft x < infRight x) :
...
   exact (hy' ▸ birthday_simplestBtwn_le_of_fits hzx).trans (birthday_mk_le z)
 
+theorem supLeft_lt_infRight_of_equiv_numeric {x y : IGame} [y.Numeric] (h : x ≈ y) :
+    supLeft x < infRight x := by
+  replace h := Game.mk_eq h
+  by_contra! hx
+  have hx' := hx
+  simp_rw [← leftGame_eq_supLeft_of_le hx, ← rightGame_eq_infRight_of_le hx, h, ← toGame_mk,
+    leftGame_toGame, rightGame_toGame] at hx'
+  simp at hx'
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean]:
```suggestion
  by_contra! hx
  simp [← leftGame_eq_supLeft_of_le hx, ← rightGame_eq_infRight_of_le hx,
    Game.mk_eq h, ← toGame_mk] at hx
```

File: CombinatorialGames/Surreal/Birthday/Cut.lean [hunk 5]
```diff
@@ -0,0 +1,297 @@
...
+  · rw [WithTop.coe_le_coe]
+    apply birthday_simplestBtwn_le_of_fits
+    unfold Fits
+    aesop
+  · apply (WithTop.coe_le_coe.2 <| birthday_ofSets_le ..).trans_eq
+    simp [Order.succ_eq_add_one, WithTop.coe_sSup' (NatOrdinal.bddAbove_of_small _), image_image]
+
+private theorem birthday_game_le (x : IGame) :
+    (supLeft x).birthday ≤ x.birthday ∧ (infRight x).birthday ≤ x.birthday ∧
+    (leftGame (.mk x)).birthday ≤ x.birthday + 1 ∧ (rightGame (.mk x)).birthday ≤ x.birthday + 1 := by
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Birthday/Cut.lean:241]: This statement makes me a little uncomfortable, as it feels like these should be split into separate theorems - especially if a person only wants to use one of these statements.

Comment (vihdzp) [reply CombinatorialGames/Surreal/Birthday/Cut.lean:241]: It's a private theorem for a reason! The induction has to prove the last two statements at once; the first two statements can be done separately, but it requires duplicating work, since they're used as lemmas in the induction.

I have the four split versions of this theorem as the very next four theorems in the file.
